US06603012B2
Preparation of (RS)-2-(2,2,4,4-tetramethyl-chroman-6-yl)-heptanoic Acid
2.55 ml of diisopropylamine were dissolved in 60 ml THF and treated dropwise, at 0° C., with 7.2 ml of butyl lithium (2.5M). After 30 min. at 0° C., a solution of 1.8 g of (2,2,4,4-tetramethyl-chroman-6-yl)-acetic acid in 8 ml of THF was dropped in. The reaction mixture was stirred at 0° C. for one hour then at room temperature for 30 min. After cooling back to 0° C., a solution of 1.42 ml of pentyl iodide in 4 ml THF was added dropwise. The mixture was kept at 0° C. for one hour then at room temperature for two hours. The mixture was quenched with the addition of 50 ml of water and the pH was adjusted to 2 with HCl 1N. The mixture was extracted with three portions of 50 ml of ether. The combined organic extracts were washed with two portions of 50 ml of water and one portion of 50 ml of saturated aqueous sodium chloride solution. The organic phase was dried over MgSO4 and concentrated in vacuo. The crude product was purified by flash chromatography (SiO2, 20% ethyl acetate/hexanes), yielding 1.2 g of a pale yellow oil. 1H NMR (CDCl3): 7.17 (d, J=2.2 Hz, 1H), 7.03 (dd, J=8.4, 2.2 Hz, 1H), 6.73 (d, J=8.4 Hz, 1H), 3.45 (t, J=7.7 Hz, 1H), 2.10-1.90 (m, 1H), 1.81 (s, 2H), 1.80-1.65 (m, 1H), 1.33 (s, 6H), 1.32 (s, 6H), 1.40-1.20 (m, 6H), 0.85 (t, J=6.9 Hz, 3H).

reactant | diisopropylamine | 2.55 ml | C(C)(C)NC(C)C | C6H15N
reactant | butyl lithium | 2.5M, 7.2 ml | C(CCC)[Li]
reactant | (2,2,4,4-tetramethyl-chroman-6-yl)-acetic acid | 1.8 g | CC1(OC2=CC=C(C=C2C(C1)(C)C)CC(=O)O)C | C15H20O3
reactant | pentyl iodide | 1.42 ml | C(CCCC)I | C5H11I
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | THF | 8 ml | C1CCOC1 | C4H8O
solvent | THF | 4 ml | C1CCOC1 | C4H8O
product | (RS)-2-(2,2,4,4-tetramethyl-chroman-6-yl)-heptanoic Acid | 1.2 g | CC1(OC2=CC=C(C=C2C(C1)(C)C)C(C(=O)O)CCCCC)C | C20H30O3
